US07645755B2
b) 4-{4-[(4-Cyano-1H-pyrrole-2-carbonyl)-amino]-3-cyclohex-1-enyl-phenyl}-piperidine-1-carboxylic acid tert-butyl ester
A suspension of 101 mg (0.741 mmol) 4-cyano-1H-pyrrole-2-carboxylic acid (Canadian J. Chem. 59: 2673 (1981)) in 20 mL CH3CN was treated with 116 μL (0.741 mmol) (1-chloro-2-methyl-propenyl)-dimethylamine at RT for 20 min. The mixture was added to a solution of 220 mg (0.617 mmol) of 4-(4-amino-3-cyclohex-1-enyl-phenyl)-piperidine-1-carboxylic acid tert-butyl ester (as prepared in the previous step) in 10 mL CH3CN, stirred at RT for 20 h and the solvents evaporated in vacuo. Silica gel chromatography of the residue on a Varian MegaBond Elut 25-gm column with 10-25% EtOAc-hexane afforded 36.0 mg (12%) of the title compound as an off-white solid: Mass spectrum (ESI, m/z): Calcd. for C24H27N4O3, 419.2 (M−C4H9+2H), found 419.1.

reactant | 4-cyano-1H-pyrrole-2-carboxylic acid | 0.741 mmol, 101 mg | C(#N)C=1C=C(NC1)C(=O)O | C6H4N2O2
reactant | (1-chloro-2-methyl-propenyl)-dimethylamine | 0.741 mmol, 116 μL | ClC(=C(C)C)N(C)C | C6H12ClN
reactant | 4-(4-amino-3-cyclohex-1-enyl-phenyl)-piperidine-1-carboxylic acid tert-butyl ester | 0.617 mmol, 220 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)C1=CC(=C(C=C1)N)C1=CCCCC1 | C22H32N2O2
solvent | CH3CN | 20 mL | CC#N | C2H3N
solvent | CH3CN | 10 mL | CC#N | C2H3N
product | 4-{4-[(4-Cyano-1H-pyrrole-2-carbonyl)-amino]-3-cyclohex-1-enyl-phenyl}-piperidine-1-carboxylic acid tert-butyl ester | 36.0 mg, 12% | C(C)(C)(C)OC(=O)N1CCC(CC1)C1=CC(=C(C=C1)NC(=O)C=1NC=C(C1)C#N)C1=CCCCC1 | C28H34N4O3
